US06576627B1
Diphenylmethylamine (4.00 ml) and cyclopentanone (2.06 ml) were stirred at 120° C. for 3 hours, and then the mixture was returned to room temperature and added with tetrahydrofuran (2 ml) and phosphinic acid (1.8 g). The mixture was stirred at room temperature for 3 minutes, and then allowed to stand for 17 hours. Water (20 ml) was added to the reaction system, and the insoluble solid was collected by filtration and washed with tetrahydrofuran, and then dried to obtain crude 1-(diphenylmethylamino)cyclopentylphosphinic acid (1.53 g). This compound was subjected to the measurement of molecular weight and then used in the following reaction.

reactant | Diphenylmethylamine | 4.00 ml | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
reactant | cyclopentanone | 2.06 ml | C1(CCCC1)=O | C5H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | phosphinic acid | 1.8 g | [PH2](O)=O | H3O2P
solvent | Water | 20 ml | O | H2O
product | 1-(diphenylmethylamino)cyclopentylphosphinic acid | 1.53 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC1(CCCC1)P(O)=O | C18H22NO2P
